US08211884B2
1-[2-Oxo-2-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-[1,4]diazepan-1-yl)-ethyl]-cyclopentanecarboxylic acid
With a method similar to that used for the preparation of 2,2-dimethyl-4-oxo-4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepan-1-yl)-butyric acid, 1-[2-Oxo-2-(4-{5-(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-[1,4]diazepan-1-yl)-ethyl]-cyclopentanecarboxylic acid was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-[1,4]diazepan-1-yl-pyridin-3-yl)-amide hydrochloride and 2-oxa-spiro[4.4]nonane-1,3-dione. LCMS for C29H30F3N5O5 calcd. (m/e) 585, observed 586 (M+H).

reactant | 2,2-dimethyl-4-oxo-4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepan-1-yl)-butyric acid | CC(C(=O)O)(CC(N1CCN(CCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O)C | C28H29F3N4O5
reactant | cyclopentanecarboxylic acid | C1(CCCC1)C(=O)O | C6H10O2
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-[1,4]diazepan-1-yl-pyridin-3-yl)-amide hydrochloride | Cl.N1(CCNCCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | 2-oxa-spiro[4.4]nonane-1,3-dione | C1(OC(CC12CCCC2)=O)=O | C8H10O3
product | 1-[2-Oxo-2-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-[1,4]diazepan-1-yl)-ethyl]-cyclopentanecarboxylic acid | O=C(CC1(CCCC1)C(=O)O)N1CCN(CCC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C29H30F3N5O5
